US06780471B2
A solution of 4-bromo-1-(methyldiisopropyloxysilyl)benzene (13.35 g, 42.1 mmol) in THF (85 ml) was added slowly dropwise at 0° C. to a suspension of magnesium chips (1.53 g, 63.1 mmol) in THF (10 ml). After one hour, the Grignard reagent of 4-bromo-1-(methyldiisopropyloxysilyl)benzene was added dropwise at 0° C. to iodine (13.87 g, 54 mmol) dissolved in 50 ml of dry THF. After stirring during four hours, the solvent was pumped off and the residue was extracted with dry pentane (200 ml) and filtered. The yellow solution was concentrated to afford 4-iodo-1-(methyldiisopropyloxysilyl)benzene as a yellow oil of in 84% yield. 1H NMR (CDCl3, δ, ppm) 7.76 (2H, d); 7.42 (2H, d); 4.21 (2H, heptuplet); 1.23 (12H, t); 0.37 (3H, s).

reactant | 4-bromo-1-(methyldiisopropyloxysilyl)benzene | 42.1 mmol, 13.35 g | BrC1=CC=C(C=C1)[Si](OC(C)C)(OC(C)C)C | C13H21BrO2Si
reactant | magnesium | [Mg] | Mg
reactant | iodine | 54 mmol, 13.87 g | II | I2
solvent | THF | 85 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 4-iodo-1-(methyldiisopropyloxysilyl)benzene | 84% yield | IC1=CC=C(C=C1)[Si](OC(C)C)(OC(C)C)C | C13H21IO2Si
